US07399759B2
6,7-Dimethoxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one
A mixture of 4,5-dimethoxy-2-mercaptobenzoic acid (2.20 g, 10.2 mmol), 2-cyanopyridine (1.10 g, 10.2 mmol) and pyridine (15.0 ml) was refluxed for 20 hrs as described in Example 9. After cooling, the precipitated crystals were collected by filtration and recrystallized from hexane-chlorobenzene to give the titled compound (1.70 g, 55%).

reactant | 4,5-dimethoxy-2-mercaptobenzoic acid | 10.2 mmol, 2.20 g | COC1=CC(=C(C(=O)O)C=C1OC)S | C9H10O4S
reactant | 2-cyanopyridine | 10.2 mmol, 1.10 g | C(#N)C1=NC=CC=C1 | C6H4N2
solvent | pyridine | 15.0 ml | N1=CC=CC=C1 | C5H5N
product | 6,7-Dimethoxy-2-(2-pyridyl)-4H-1,3-benzothiazine-4-one | 1.70 g, 55% | COC=1C(=CC2=C(C(N=C(S2)C2=NC=CC=C2)=O)C1)OC | C15H12N2O3S
